US05025031
3-[4-(1H-Imidazol-1-yl)phenoxy]-1-propanol.
A stirred mixture of 4-(1H-imidazol-1-yl)phenol (16.0 g, 0.10 mole), 3-chloropropanol (19.0 g, 0.20 mole), potassium carbonate (28 g, 0.20 mole) and methyl ethyl ketone (100 ml) was heated at reflux temperature for 24 hr. The reaction mixture was cooled, filtered, and the filtrate concentrated. The residue was partitioned between ethyl acetate and 0.01N sodium hydroxide solution. The ethyl acetate layer was dried (magnesium sulfate), diluted with ether, and the solid precipitate collected. The solid was recrystallized from methyl isobutyl ketone to obtain 10.0 g (46%), mp 76°-78° C.

reactant | 4-(1H-imidazol-1-yl)phenol | 0.10 mole, 16.0 g | N1(C=NC=C1)C1=CC=C(C=C1)O | C9H8N2O
reactant | 3-chloropropanol | 0.20 mole, 19.0 g | ClCCCO | C3H7ClO
reactant | potassium carbonate | 0.20 mole, 28 g | C([O-])([O-])=O.[K+].[K+]
solvent | methyl ethyl ketone | 100 ml | C(C)C(=O)C | C4H8O
product | 3-[4-(1H-Imidazol-1-yl)phenoxy]-1-propanol | N1(C=NC=C1)C1=CC=C(OCCCO)C=C1 | C12H14N2O2
